US04666917
3,6-Bis[2-(diethylamino)ethoxy]-4,5-diformylacridine
To a solution of 0.469 g of 3,6-bis[2-(diethylamino)ethoxy]-4,5-acridinedimethanol in a mixture of 5.0 ml of anhydrous dimethyl sulfoxide and 2.8 ml of triethylamine is added a solution of 0.96 g of sulfur trioxide-pyridine complex in 5 ml of anhydrous dimethyl sulfoxide. The reaction mixture is stirred at room temperature for one hour. Most of the dimethyl sulfoxide is removed under reduced pressure without heat. The residue is treated first with 50 ml of saturated sodium bicarbonate solution and then with 50 ml of water, giving 0.35 g of the desired product as a yellow solid.

reactant | 3,6-bis[2-(diethylamino)ethoxy]-4,5-acridinedimethanol | 0.469 g | C(C)N(CCOC=1C=CC2=CC=3C=CC(=C(C3N=C2C1CO)CO)OCCN(CC)CC)CC | C27H39N3O4
solvent | dimethyl sulfoxide | 5.0 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 3,6-Bis[2-(diethylamino)ethoxy]-4,5-diformylacridine | 0.35 g | C(C)N(CCOC=1C=CC2=CC3=CC=C(C(=C3N=C2C1C=O)C=O)OCCN(CC)CC)CC | C27H35N3O4
